US03953502
Ethyl 1,4-benzoxazine-2-carboxylate (5.8g.) was disolved in acetonitrile (15ml.) under an atmosphere of argon. Formaldehyde (30ml. of a 37% aqueous solution) and lithium cyanoborohydride (4.67g.) were added, and the solution was stirred for 5 minutes. Glacial acetic acid (3.5ml.) was added dropwise and over a period of 10 minutes, and the solution was stirred at room temperature for 2 hours. More glacial acetic acid (3.5ml.) was added, and after 30 minutes the reaction mixture was poured into diethyl ether (200ml.), washed successively with 0.1N hydrochloric acid, sodium bicarbonate and brine, and was dried. The solvent was evaporated to give the crude 2-carboxyethyl-4-methyl-1,4-benzoxazine, which was purified by chromatography on silica gel (148g.). Elution with 10% ethyl acetate in toluene gave pure ethyl 4-methyl-1,4-benzoxazine-2-carboxylate (5.9g.) whose n.m.r. spectrum in deuteriochloroform showed the following features (δ values):-

reactant | Ethyl 1,4-benzoxazine-2-carboxylate | 5.8g | O1C(C=NC2=C1C=CC=C2)C(=O)OCC | C11H11NO3
reactant | Formaldehyde | C=O | CH2O
reactant | lithium cyanoborohydride | 4.67g | C(#N)[BH3-].[Li+]
reactant | acetic acid | 3.5ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 3.5ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 15ml | C(C)#N | C2H3N
solvent | diethyl ether | 200ml | C(C)OCC | C4H10O
product | ethyl 4-methyl-1,4-benzoxazine-2-carboxylate | 5.9g | CN1C=C(OC2=C1C=CC=C2)C(=O)OCC | C12H13NO3
